US08486967B2
d) 1-Benzyl-3,3-difluoropiperidine-4,4-diol
A solution of ethyl 1-benzyl-5,5-difluoro-4-oxopiperidine-3-carboxylate (4.272 g, 14.4 mmol) dissolved in 3 N HCl (175 mL) was heated at reflux for 14 hours. The reaction mixture was cooled to room temperature, then solid NaHCO3 was added until pH 8 and extracted three times with ethyl acetate, the combined organic layers were dried over Na2SO4 and the solvents were evaporated. The title compound was obtained as white solid (3.5 g, 100%).

reactant | ethyl 1-benzyl-5,5-difluoro-4-oxopiperidine-3-carboxylate | 14.4 mmol, 4.272 g | C(C1=CC=CC=C1)N1CC(C(C(C1)(F)F)=O)C(=O)OCC | C15H17F2NO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | 3 N, 175 mL | Cl | ClH
product | 1-Benzyl-3,3-difluoropiperidine-4,4-diol | C(C1=CC=CC=C1)N1CC(C(CC1)(O)O)(F)F | C12H15F2NO2
